US06656971B2
5-(3,4-dichlorophenoxymethyl)-1,3-dinitrobenzene.
0.5 mmole 3,4-Dichloro-phenol and 1 mmole KI were added to a solution of 0.5 mmole 1-Chloromethyl-3,5-dinitrobenzene in 2.5 ml 1-Butanol. The mixture was stirred under reflux overnight. After evaporation the 1-Butanol, the residue was washed with 2×10 ml 1 N HCl and 2×10 ml EtOAc, and dried. 1H NMR (DMSO-d6, 400 MHz) 5.44 (s, 2H); 7.14 (d, 1H); 7.43 (s, 1H); 7.58 (d, 1H); 8.73 (s, 2H); 8.81 (s, 1H);

reactant | 3,4-Dichloro-phenol | 0.5 mmole | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 1-Chloromethyl-3,5-dinitrobenzene | 0.5 mmole | ClCC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN2O4
solvent | 1-Butanol | 2.5 ml | C(CCC)O | C4H10O
product | 5-(3,4-dichlorophenoxymethyl)-1,3-dinitrobenzene | ClC=1C=C(OCC=2C=C(C=C(C2)[N+](=O)[O-])[N+](=O)[O-])C=CC1Cl | C13H8Cl2N2O5
